US03972994
7 parts of N-ethyl-2-(2-methoxy-4-acetylamino-5-chloro benzamido methyl)-3-azabicyclo (3,3,0) octane were heated for 30 minutes in the presence of 17.7 parts of a 2 N solution of sodium hydroxide and 15 parts of ethanol. After cooling, the precipitate was filtered and recrystallized in 40 parts of acetonitrile. There were obtained 5 parts of N-ethyl-2-(2-methoxy-4-amino-5-chloro benzamido methyl)-3-azabicyclo(3,3,0) octane, M.P. 128°-129° C.

reactant | N-ethyl-2-(2-methoxy-4-acetylamino-5-chloro benzamido methyl)-3-azabicyclo (3,3,0) octane | C(C)N1C(C2CCCC2C1)CNC(C1=C(C=C(C(=C1)Cl)NC(C)=O)OC)=O | C20H28ClN3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-ethyl-2-(2-methoxy-4-amino-5-chloro benzamido methyl)-3-azabicyclo(3,3,0) octane | C(C)N1C(C2CCCC2C1)CNC(C1=C(C=C(C(=C1)Cl)N)OC)=O | C18H26ClN3O2
